US07244722B2
3-(1-Piperazinyl)-1-[2-(2,3,4-trifluorophenoxy)ethyl]-2(1H)-pyrazinone
TMAD (0.207 g, 1.20 mmol) was added to a solution of 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol (0.324 g, 1.00 mmol), triphenylphosphine (0.315 g, 1.20 mmol) and 2,3,4-trifluorophenol (0.296 g, 2.00 mmol) in THF (1 mL) at room temperature. After being stirred for 2 h, the mixture was concentrated in vacuo and put through a silica column using toluene/EtOAc (7:3) as eluent. Solvents were removed in vacuo and the resulting N-t-BOC derivative was treated with dichloromethane/TFA/H2O (50:45:5; 5 mL) for 15 min with stirring. The mixture was concentrated and the residue purified by chromatography on silica gel using EtOAc/HOAc/MeOH/H2O (20:3:3:2) as eluent. The product-containing fractions were concentrated, washed between dichloromethane/5% aqueous NaOH, and put through a silica column using dichloromethane/MeOH (8:2) as eluent to give 62 mg (17%) of the title compound. HRMS m/z calcd for C16H17F3N4O2 (M)+ 354.1304, found 354.1321.

reactant | TMAD | 1.20 mmol, 0.207 g | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
reactant | 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol | 1.00 mmol, 0.324 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CN1)OCCO | C15H24N4O4
reactant | triphenylphosphine | 1.20 mmol, 0.315 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,3,4-trifluorophenol | 2.00 mmol, 0.296 g | FC1=C(C=CC(=C1F)F)O | C6H3F3O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-(1-Piperazinyl)-1-[2-(2,3,4-trifluorophenoxy)ethyl]-2(1H)-pyrazinone | 62 mg, 17% | N1(CCNCC1)C=1C(N(C=CN1)CCOC1=C(C(=C(C=C1)F)F)F)=O | C16H17F3N4O2
